US05834494
1-Acetyl-6-chloro-5-vinylindoline (D61)
1-Acetyl-6-chloro-5-iodoindoline (D60) (0.19 g, 0.6 mmol) was treated with vinyl tributyltin as in the method developed by Stille (A. M. Echavarren and J. K. Stille, J. Am. Chem. Soc., 1987, 109, 5478) to give the title compound (0.13 g) as a brown oil which was used without further purification.

reactant | 1-Acetyl-6-chloro-5-iodoindoline | 0.6 mmol, 0.19 g | C(C)(=O)N1CCC2=CC(=C(C=C12)Cl)I | C10H9ClINO
reactant | vinyl tributyltin | C(=C)[Sn](CCCC)(CCCC)CCCC
product | 1-Acetyl-6-chloro-5-vinylindoline | 0.13 g | C(C)(=O)N1CCC2=CC(=C(C=C12)Cl)C=C | C12H12ClNO
